US07304162B2
1.8 Preparation of (1-Phenyl-ethylidene)-hydrazine
A 1 L flask equipped with a mechanical stirrer, thermometer, and addition funnel was charged with 300 mL of methanol and cooled to 0° C. Barium oxide (8.4 g, 55 mmol) was added portion-wise with exotherm. The reaction was cooled again to 0° C., and hydrazine monohydrate (54.6 g, 1.09 mol) was slowly added. The reaction mixture was stirred for 10 minutes, after which benzaldehyde (131.5 g, 1.09 mol) was added drop-wise over a 30 minute period. The reaction was then stirred for 1 hour, while maintaining a temperature below 8° C. 1H NMR indicated the absence of ketone and a complete reaction. Ether (200 mL) was added, and the BaO was filtered through a bed of silica gel. The resultant clear filtrate was liberated of methanol on a rotary evaporator at or below room temperature. The remaining concentrate was distilled at ca. 1 torr and the intended (1-phenyl-ethylidene)-hydrazine was collected at 91-94° C. in a 50 g quantity. 1H-NMR (300 MHz, CDCl3)δ(ppm): 7.65 (m, 2H), 7.35 (m, 3H), 5.37 (br, 2H), 2.13 (s, 3H). During the distillation, a bright yellow solid of N,N′-bis-(1-phenyl-ethylidene)-hydrazine appeared in the distillation vessel. 1H-NMR (300 MHz, CDCl3)δ(ppm): 7.95 (m, 4H), 7.45 (m, 6H), 2.32 (s, 6H).

reactant | methanol | 300 mL | CO | CH4O
reactant | Barium oxide | 55 mmol, 8.4 g | [O-2].[Ba+2]
reactant | hydrazine monohydrate | 1.09 mol, 54.6 g | O.NN
reactant | benzaldehyde | 1.09 mol, 131.5 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | Ether | 200 mL | CCOCC | C4H10O
product | (1-Phenyl-ethylidene)-hydrazine | C1(=CC=CC=C1)C(C)=NN | C8H10N2
